US07704997B1
2-[(6-methylpyridin-3-yl)oxy]nicotinonitrile
5-hydroxy-2-methylpyridine and 2-fluoronicotinonitrile were processed according to the method of Example 128B to provide the product. MS (ESI+) m/z 212 (M+H)+;

reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | 2-fluoronicotinonitrile | FC1=C(C#N)C=CC=N1 | C6H3FN2
product | 2-[(6-methylpyridin-3-yl)oxy]nicotinonitrile | CC1=CC=C(C=N1)OC1=C(C#N)C=CC=N1 | C12H9N3O
